US03957999
A solution of 5-methoxy-2-[4-(2-pyrrolidin-1-ylethoxy)anilino]benzothiazole (0.369 g.) in ethanol (14 ml.) is treated at room temperature with a solution of dry hydrogen chloride in ethanol (0.37 ml. of 10% w v solution) and the mixture kept at room temperature for 24 hours. The precipitate which forms is collected by filtration, washed with dry ether and dried to give 5-methoxy-2-[4-(2-pyrrolidin-1-ylethoxy)anilino]benzothiazole hydrochloride hemihydrate, m.p. 196° - 199°C. with previous softening. Elemental analysis satisfactory for C20H24ClN3O2S.1/2H2O.

reactant | 5-methoxy-2-[4-(2-pyrrolidin-1-ylethoxy)anilino]benzothiazole | 0.369 g | COC=1C=CC2=C(N=C(S2)NC2=CC=C(C=C2)OCCN2CCCC2)C1 | C20H23N3O2S
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 14 ml | C(C)O | C2H6O
solvent | ethanol | 0.37 ml | C(C)O | C2H6O
product | 5-methoxy-2-[4-(2-pyrrolidin-1-ylethoxy)anilino]benzothiazole hydrochloride hemihydrate | O.Cl.COC=1C=CC2=C(N=C(S2)NC2=CC=C(C=C2)OCCN2CCCC2)C1.COC=1C=CC2=C(N=C(S2)NC2=CC=C(C=C2)OCCN2CCCC2)C1.Cl | InChI=1S/2C20H23N3O2S.2ClH.H2O/c2*1-24-17-8-9-19-18(14-17)22-20(26-19)21-15-4-6-16(7-5-15)25-13-12-23-10-2-3-11-23;;;/h2*4-9,14H,2-3,10-13H2,1H3,(H,21,22);2*1H;1H2
